US06555557B1
Preparation of 3-(3-bromopyridin-4-yl)-1-propanol
Diisopropylamine (7.1 g, 70 mmol) is dissolved in THF (100 ml), and thereto is added a solution of n-butyl lithium in hexane (35.7 ml, 60 mmol) at −70° C., and the mixture is stirred for 15 minutes. Then, to the mixture is added a solution of 3-bromo-4-methylpyridine (8.6 g, 50 mmol) in THF (30 ml). Ten minutes thereafter, to the mixture is added ethylene oxide (2.6 g, 60 mmol), and the mixture is warmed to 0° C. over a period of time for one hour. The reaction is quenched with a saturated brine (50 ml), and the mixture is extracted with ethyl acetate (150 ml×2). The organic layer is washed with a saturated brine (100 ml×2), dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (eluent: ethyl acetate/hexane) to give the title compound (8.5 g) as a pale yellow oil.

reactant | Diisopropylamine | 70 mmol, 7.1 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 60 mmol, 35.7 ml | CCCCCC | C6H14
reactant | 3-bromo-4-methylpyridine | 50 mmol, 8.6 g | BrC=1C=NC=CC1C | C6H6BrN
reactant | ethylene oxide | 60 mmol, 2.6 g | C1CO1 | C2H4O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 3-(3-bromopyridin-4-yl)-1-propanol | 8.5 g | BrC=1C=NC=CC1CCCO | C8H10BrNO
